US04997667
A solution of 1 g (10.64 mmol) of 4-aminopyridine and 2.3 g (15.9 mmol) of beta-alanine ethyl ester isocyanate in 30 ml of anhydrous acetonitrile is agitated for 20 hr at room temperature. After concentration to dryness and trituration of the resulting oily residue in ether (4 × 20 ml), 2.5 g (yield 88%) of 4-pyridylcarbamoyl-beta-alanine ethyl ester is obtained in the form of a solid having a melting point of 95° C.

reactant | 4-aminopyridine | 10.64 mmol, 1 g | NC1=CC=NC=C1 | C5H6N2
reactant | beta-alanine ethyl ester isocyanate | 15.9 mmol, 2.3 g | [N-]=C=O.C(C)OC(CCN)=O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-pyridylcarbamoyl-beta-alanine ethyl ester | 2.5 g, yield 88% | C(C)OC(CCNC(NC1=CC=NC=C1)=O)=O | C11H15N3O3
